US07507509B2
(Preparation of 4-methoxy-4′-(di-para-tolylamino)stilbene)
Same mol of the diethyl 4-methoxybenzylphosphonate and 4-(di-para-tolylamino)benzaldehyde were dissolved in N.N-dimethylformamide, and tert-butoxy kalium was gradually added to the solution while water-cooled and stirred. After stirred for 5 hrs at a room temperature, water was added thereto to acidize the solution and a crude product is separated out. The crude product was further column-refined with silica gel to prepare 4-methoxy-4′-(di-para-tolylamino)stilbene.

reactant | diethyl 4-methoxybenzylphosphonate | COC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H19O4P
reactant | 4-(di-para-tolylamino)benzaldehyde | C1(=CC=C(C=C1)N(C1=CC=C(C=O)C=C1)C1=CC=C(C=C1)C)C | C21H19NO
reactant | tert-butoxy kalium | C(C)(C)(C)O[K]
reactant | water | O | H2O
solvent | N.N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methoxy-4′-(di-para-tolylamino)stilbene | COC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C29H27NO
